US06455566B1
{2-[3-(5-Chloro-2-methyl-phenyl)-thioureido]-thiazol-4-yl }-acetic Acid Ethyl Ester
Prepared using Method B from 4.5 g (24.5 mmol) of 5-chloro-2-methyl-phenyl isothiocyanate and 4.56 g (24.5 mmol) of 2-(2-amino-thiazol-4-yl)-acetic acid ethyl ester to give 3.62 g of title compound as a white solid (40% yield, m.p. 177-179° C.).

reactant | 5-chloro-2-methyl-phenyl isothiocyanate | 24.5 mmol, 4.5 g | ClC=1C=CC(=C(C1)N=C=S)C | C8H6ClNS
reactant | 2-(2-amino-thiazol-4-yl)-acetic acid ethyl ester | 24.5 mmol, 4.56 g | C(C)OC(CC=1N=C(SC1)N)=O | C7H10N2O2S
product | {2-[3-(5-Chloro-2-methyl-phenyl)-thioureido]-thiazol-4-yl }-acetic Acid Ethyl Ester | 3.62 g, 40% yield | C(C)OC(CC=1N=C(SC1)NC(=S)NC1=C(C=CC(=C1)Cl)C)=O | C15H16ClN3O2S2
